* C:\Users\mcconncm\Documents\MATLAB\Lab10\OverallCircuit.asc
R1 N004 VIN 106.1k
C1 N004 0 1nF
R2 N007 N008 .000001
R3 N008 0 1Meg
XU1 N004 N008 VCC VNN N007 LM324
R4 N001 N007 170k
XU3 N005 N009 VCC VNN N002 LM324
R5 N005 N001 1.407k
C2 N005 0 1n
C3 N002 N001 47n
R6 N009 0 1Meg
R7 N002 N009 .00001
R8 N003 N002 61.7k
XU4 N006 N010 VCC VNN VOUT LM324
R9 N006 N003 3.88k
C4 N006 0 1n
C5 VOUT N003 47n
R10 N010 0 1Meg
R11 VOUT N010 .00001
V1 VCC 0 15
V2 0 VNN 15
V3 VIN 0 0 AC 1
.ac lin 100 1 3k
.include "C:\Users\mcconncm\Documents\MATLAB\Lab10\lm324.sub"
.backanno
.end
