* C:\Users\mcconncm\Documents\MATLAB\Lab10\OverallCircuit.asc
R1 N004 VIN 107.1k
C1 N004 0 0.99n
XU1 N004 N007 VCC VNN N007 LM324
R4 N001 N007 162.10k
XU3 N005 N002 VCC VNN N002 LM324
R5 N005 N001 14.885k
C2 N005 0 0.97n
C3 N002 N001 4.7n
R8 N003 N002 49.379k
XU4 N006 VOUT VCC VNN VOUT LM324
R9 N006 N003 9.676k
C4 N006 0 1.11n
C5 VOUT N003 21.18n
V1 VCC 0 5
V2 0 VNN 5
V3 VIN 0 SINE(0 2.05 1500) AC 1
.tran .01
.include "C:\Users\mcconncm\Documents\MATLAB\Lab10\lm324.sub"
.backanno
.end
